US04886809
One gram of 6-[4-(3-chloro-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.hydrochloride, 0.17 g of methylamine hydrochloride and 1.2 g of potassium carbonate were dispersed in 20 ml of acetonitrile and the dispersion was stirred at 60° C. for 4 hours. After the reaction was completed, the reaction mixture was poured into water then extracted with methylene chloride. The extract was dried with anhydrous sodium carbonate, then the solvent was removed by evaporation. Thus obtained residue was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol=20:1), then the desired product was converted into a citrate, and recrystallized from ethanol-water to yield 0.5 g of 6-[4-(3-methylamino-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.dicitrate. White powdery substance.

reactant | 6-[4-(3-chloro-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.hydrochloride | One gram | Cl.ClC(CCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC=CC=C1
reactant | methylamine hydrochloride | 0.17 g | Cl.CN
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-[4-(3-methylamino-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 0.5 g | CNC(CCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC=CC=C1 | C24H30N4O2
